US07196114B2
c) 1-[2-(5-Amino[1,3,4]oxadiazol-2-yl)thiophen-3-yl]-3-(2-chloro-4,5-difluorobenzoyl)urea
5-(3-Aminothiophen-2-yl)[1,3,4]oxadiazol-2-ylamine hydrochloride (30 mg) is initially charged in 3 ml of acetonitrile. The equimolar solution of 2-chloro-4,5-difluorobenzoyl isocyanate in acetonitrile is added and stirred at RT. After 3 hours, the solid is filtered off with suction and dried under reduced pressure.

reactant | 5-(3-Aminothiophen-2-yl)[1,3,4]oxadiazol-2-ylamine hydrochloride | 30 mg | Cl.NC1=C(SC=C1)C1=NN=C(O1)N
reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-[2-(5-Amino[1,3,4]oxadiazol-2-yl)thiophen-3-yl]-3-(2-chloro-4,5-difluorobenzoyl)urea | NC1=NN=C(O1)C=1SC=CC1NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O | C14H8ClF2N5O3S
